US07691491B2
6.94 g (21.7 mmol) of 2-iodo-9,9-dimethylfluorene and 1 g (7.25 mmol) of 1,4-phenylenebis(boronic acid) were dissolved and agitated under nitrogen flow in the mixed solvent (120 ml of degassed toluene and 60 ml of ethanol), and 145 ml of sodium carbonate solution which was prepared by dissolving 30 g of anhydrous sodium carbonate in 150 ml of water was added dropwise thereto. After agitating for 30 minutes, 840 mg (0.727 mmol) of tetrakis(triphenylphosphine) palladium was added. Heating with agitation was carried out on the oil bath heated at 80° C. for about 3 hours. After cooling the reaction solution to room temperature, 50 ml of water and 50 ml of ethyl acetate were added, the aqueous layer and the organic layer were separated, the aqueous layer was further extracted with toluene and ethyl acetate, and the extract combined with the above organic layer was dried over magnesium sulfate. The solvent was evaporated, the residual substance was refined by silica gel column chromatography (toluene:hexane=1:2), and 3.02 g of 1,4-phenylenebis(9,9-dimethylfluorene) was obtained.

reactant | 2-iodo-9,9-dimethylfluorene | 21.7 mmol, 6.94 g | IC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C15H13I
reactant | 1,4-phenylenebis(boronic acid) | 7.25 mmol, 1 g | C1(=CC=C(C=C1)B(O)O)B(O)O | C6H8B2O4
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 145 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 150 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.727 mmol, 840 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1,4-phenylenebis(9,9-dimethylfluorene) | 3.02 g | C1(=CC=C(C=C1)C1=CC=CC=2C3=CC=CC=C3C(C12)(C)C)C1=CC=CC=2C3=CC=CC=C3C(C12)(C)C | C36H30
